US09317012B2
In a 1 L flask, 46.9 g (154 mmol) of (2E)-1-(4-bromophenyl)-3-phenylprop-2-en-1-one were dissolved in 450 g of methanol, admixed with 46.9 g (768 mmol) of nitromethane and 56.2 g (768 mmol) of diethylamine and refluxed for 16 h. The solvent was half distilled off in vacuo and the precipitated solid was separated off and dried to constant weight in vacuo to obtain 46 g (132 mmol) of 1-(4-bromophenyl)-4-nitro-3-phenylbutan-1-one.

reactant | (2E)-1-(4-bromophenyl)-3-phenylprop-2-en-1-one | 154 mmol, 46.9 g | BrC1=CC=C(C=C1)C(\C=C\C1=CC=CC=C1)=O | C15H11BrO
reactant | nitromethane | 768 mmol, 46.9 g | [N+](=O)([O-])C | CH3NO2
reactant | diethylamine | 768 mmol, 56.2 g | C(C)NCC | C4H11N
solvent | methanol | 450 g | CO | CH4O
product | 1-(4-bromophenyl)-4-nitro-3-phenylbutan-1-one | 132 mmol, 46 g | BrC1=CC=C(C=C1)C(CC(C[N+](=O)[O-])C1=CC=CC=C1)=O | C16H14BrNO3
